US07901794B2
A mixed solution of 1.5 g of the above-mentioned 1,3,6-tri(4-methylphenyl)pyrene, 0.68 g of N-bromosuccinimide and 30 ml of dimethylformamide was stirred under nitrogen gas stream at a temperature of 60° C. for 6 hours. After cooling the mixed solution to room temperature, 50 ml of water was injected thereinto to extract therefrom with 100 ml of dichloromethane. The organic layer was washed twice with 50 ml of water, dried by magnesium sulfate and thereafter concentrated by evaporation. The organic layer was purified by silica gel column chromatography and thereafter vacuum dried under a temperature of 70° C. to obtain 1.5 g of 1-bromo-3,6,8-tri(4-methylphenyl)pyrene as pale-yellow powder.

reactant | 1,3,6-tri(4-methylphenyl)pyrene | 1.5 g | CC1=CC=C(C=C1)C1=CC(=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C)C3=CC=C(C=C3)C | C37H28
reactant | N-bromosuccinimide | 0.68 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-bromo-3,6,8-tri(4-methylphenyl)pyrene | 1.5 g | BrC1=CC(=C2C=CC3=C(C=C(C4=CC=C1C2=C34)C3=CC=C(C=C3)C)C3=CC=C(C=C3)C)C3=CC=C(C=C3)C | C37H27Br
